US04562179
To a stirred solution of (rac)-1-O-octadecyl-3-O-trityl-glycerol (30.52 g) in a mixture of pyridine (41.08 g) and dichloromethane (250 ml) was dropwise added a solution of benzenesulfonyl chloride (18.36 g) in chloroform (50 ml) during a period of 10 minutes below 10° C. After stirring for 2 days at ambient temperature, the reaction mixture was refluxed for 8 hours. To the reaction mixture, were dropwise added pyridine (12.75 g) and benzenesulfonylchloride (5.7 g) successively. After stirring for 2 hours at room temperature, the reaction mixture was allowed to stand for 2 days. The reaction mixture was washed with water, 0.5N aqueous sulfuric acid, water, aqueous sodium bicarbonate and water, successively. The solution was dried over magnesium sulfate and evaporated under reduced pressure to give a residue, which was purified by column chromatography on silica gel (450 g, elution by benzene) to give 37.4 g of (rac)-1-O-octadecyl-2-O-benzenesulfonyl-3-O-trityl-glycerol as an oil.

reactant | (rac)-1-O-octadecyl-3-O-trityl-glycerol | 30.52 g | C(CCCCCCCCCCCCCCCCC)OCC(O)COC(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1 | C40H58O3
reactant | benzenesulfonyl chloride | 18.36 g | C1(=CC=CC=C1)S(=O)(=O)Cl | C6H5ClO2S
reactant | benzenesulfonylchloride | 5.7 g | C1(=CC=CC=C1)S(=O)(=O)Cl | C6H5ClO2S
solvent | pyridine | 41.08 g | N1=CC=CC=C1 | C5H5N
solvent | dichloromethane | 250 ml | ClCCl | CH2Cl2
solvent | chloroform | 50 ml | C(Cl)(Cl)Cl | CHCl3
solvent | pyridine | 12.75 g | N1=CC=CC=C1 | C5H5N
product | (rac)-1-O-octadecyl-2-O-benzenesulfonyl-3-O-trityl-glycerol | 37.4 g | C(CCCCCCCCCCCCCCCCC)OCC(OS(=O)(=O)C1=CC=CC=C1)COC(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1 | C46H62O5S
